Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cervicalgia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with hhistory
of carotid disssection intermittently compliant with aspirin,
hypertension, hyperlipidemia who presents with right face and 
right hand numbness in
setting of recent neck pain, nausea and vomiting. History
provided by patient. 

The patient reports he was in his usual state of health until 
the
last 12 days, when he has had persistent right neck pain. On
___ he and his girlfriend had gastroenteritis following
eating food at a restaraunt. He had significant vomiting over 24
hours. After a bout of vomiting he developed exacerbation of his
baseline right neck pain. This pain continued over the last 12
days, at increased severity from baseline. He had a persistent
cough as well.  Otherwise, he did not have other associated
symptoms.

This evening, at approximately 9:30 ___ (1 hour prior to my
evaluation), he was driving and felt acute onset of right face
numbness.  The numbness involves the entire right face.  On
initial assessment, he reported he had right hand numbness as
well, however on further questioning he reports that he has
numbness of the finger tip of the right thumb, index and middle
finger chronically following a remote trauma.  He does not have
other associated symptoms, such as weakness headache, visual
changes, difficulties understanding or expressing speech.  His
neck pain remained at the same level it has been over the last 
10
days.  He notes that the facial numbness has had some mild
improvement since onset, but remains persistent.

Apart from his recent exacerbation of neck pain following the
vomiting, he denies any other recent changes to his routine. 
Denies any recent illness including fever/chills, denies any
recent neck manipulation.  Denies any recent trauma.

He has been prescribed aspirin 81 mg daily for stroke 
prevention,
however has been intermittently compliant with taking them.  He
typically takes it every other day.  Since having exacerbation 
of
his neck pain 12 days ago, he has been taking it daily.

Of note, in ___, patient was found to have a right carotid
dissection. At that time he presented with acute onset of neck
pain on ___ occurring after a prolonged coughing spell. 
There was associated nausea, tongue heaviness, and dysarthria. 
Inpatient workup revealed right Horner's syndrome and right
peripheral hypoglossal nerve palsy.  MR imaging confirmed right
internal carotid artery dissection-- it started about 3 cm above
the bifurcation in the neck, and had continuation of the
dissection into the intracranial portion. There was no
evidence of stroke on MRI. He was discharged with lovenox bridge
to Coumadin. He does not recall the exact duration of therapy,
but it was stopped within a few months. He was also started on
Lipitor for hyperlipidemia. Since that hospitalization he had
intermittent, low grade right neck pain.  
 
On neuro review of systems , the pt denies headache, loss of 
vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Hypertension
Hyperlipidemia
History of right carotid dissection, as above
Allergies

 
Social History:
___
Family History:
Maternal aunt had stroke in ___.  Otherwise, denies
family history of neurologic disease or connective tissue
disorders

 
Physical Exam:
ADMISSION EXAM:
===============

Vitals: Temperature 96.7 F, heart rate 69, blood pressure
156/111, respiratory rate 18, oxygen 100% on room air
General: Awake, cooperative, NAD.
HEENT: Atraumatic/normocephalic, no scleral icterus noted, no 
lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: regular rate rhythm, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  pupils equal round and reactive 3 to 2mm and 
brisk. Extraocular movements intact without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5      5
R  5    ___   ___    5    5    5      5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE EXAM:
===============
Vitals: T 98.9 F, HR 67, BP 133/81, RR 16, Sat% 95 on RA
General: Awake, cooperative, NAD.
HEENT: Atraumatic/normocephalic, no scleral icterus noted, no 
lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: regular rate rhythm, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No lower extremity edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact 
repetition and
comprehension. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. There was no evidence of 
apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  pupils equal round and reactive Right 3.5->2mm 
Left 4->2mm and brisk. Extraocular movements intact without
nystagmus. Normal saccades. 
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5      5
R  5    ___   ___    5    5    5      5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
___ absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
LABS:
=====
___ 10:48PM BLOOD WBC-5.6 RBC-5.23 Hgb-16.6 Hct-48.2 MCV-92 
MCH-31.7 MCHC-34.4 RDW-13.3 RDWSD-45.2 Plt ___
___ 05:00AM BLOOD WBC-5.8 RBC-4.75 Hgb-14.8 Hct-43.7 MCV-92 
MCH-31.2 MCHC-33.9 RDW-13.3 RDWSD-44.9 Plt ___
___ 10:48PM BLOOD Neuts-31.4* Lymphs-57.7* Monos-8.8 
Eos-1.4 Baso-0.7 AbsNeut-1.74 AbsLymp-3.20 AbsMono-0.49 
AbsEos-0.08 AbsBaso-0.04
___ 05:00AM BLOOD Neuts-32.1* Lymphs-54.5* Monos-10.9 
Eos-1.7 Baso-0.5 Im ___ AbsNeut-1.86 AbsLymp-3.16 
AbsMono-0.63 AbsEos-0.10 AbsBaso-0.03
___ 10:48PM BLOOD ___ PTT-32.5 ___
___ 05:00AM BLOOD ___ PTT-30.4 ___
___ 10:48PM BLOOD Glucose-99 UreaN-13 Creat-0.8 Na-140 
K-4.1 Cl-101 HCO3-25 AnGap-14
___ 05:00AM BLOOD Glucose-91 UreaN-12 Creat-0.9 Na-141 
K-4.1 Cl-103 HCO3-25 AnGap-13
___ 10:48PM BLOOD ALT-38 AST-30 AlkPhos-66 TotBili-0.9
___ 05:00AM BLOOD ALT-32 AST-26 LD(LDH)-166 CK(CPK)-215 
AlkPhos-56 TotBili-1.0
___ 05:00AM BLOOD GGT-32
___ 10:48PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:48PM BLOOD Albumin-4.6 Calcium-9.5 Phos-4.7* Mg-2.0 
Cholest-188
___ 05:00AM BLOOD TotProt-6.7 Albumin-3.9 Globuln-2.8
___ 01:07AM BLOOD %HbA1c-5.6 eAG-114
___ 10:48PM BLOOD Triglyc-158* HDL-37* CHOL/HD-5.1 
LDLcalc-119
___ 10:55PM BLOOD Lactate-1.3
___ 12:11AM URINE Color-Straw Appear-Clear Sp ___
___ 12:11AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:11AM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 12:11AM URINE Mucous-RARE*

IMAGING/STUDIES:
================
CTA HEAD and NECK ___:
FINDINGS:  
CT HEAD: 
There is no evidence of hemorrhage, infarction, mass effect, or 
edema. The 
ventricles and sulci are normal in size and appearance. 
A mucous retention cyst is seen in the right maxillary sinus.  
Mild mucosal thickening is noted in scattered ethmoid air cells. 
 An osteoma with surrounding mucosal thickening is seen within 
the right frontal sinus.  The remainder of the paranasal 
sinuses, middle ear cavities, and mastoid air cells are clear. 
The orbits are grossly unremarkable bilaterally. 
CTA HEAD AND NECK: 
A normal 3 vessel aortic arch is identified.  There is a 
left-sided dominant vertebrobasilar system.  The vertebral 
arteries are patent without high-grade stenosis or occlusion. 
The bilateral common carotid arteries are patent.  There is no 
evidence of 
internal carotid stenosis by NASCET criteria. 
The right A1 segment is hypoplastic, a normal variant.  Allowing 
for this, the intracranial vasculature is grossly patent without 
high-grade stenosis, occlusion, or aneurysm greater than 3 mm. A 
hypoplastic left transverse sinus is noted. 
OTHER: 
The lungs apices are clear bilaterally. The thyroid gland is 
unremarkable in appearance. Numerous prominent bilateral 
cervical lymph nodes are noted, none of which are pathologically 
or by CT size criteria. 
IMPRESSION: 
1. No evidence of hemorrhage or infarction. 
2. Patent intracranial and cervical vasculature. 

 
Brief Hospital Course:
Mr. ___ was admitted ___ for right neck pain and a 1hour 
history of acute right face numbness concerning for right 
carotid dissection given his history of a right carotid 
dissection in ___. In the emergency room, his NIHSS was 1. CT 
of the head and neck showed no evidence of hemorrhage, 
infarction, edema, or mass. CTA head and neck showed no artery 
stenosis, dissection, occlusion or sinus occlusion. All lab work 
was within normal limits. Neurological exam on admission was 
completely normal and remained unchanged during this stay. At 
time of discharge, he no longer had numbness in her right face 
around his cheek. His right neck was tender, and a small lymph 
node was palpated in the posterior chain. He did have a recent 
upper respiratory infection, so this may be related. He was also 
working out quite a bit, which can cause cervicalgia. 

Transitional:
- Follow up with primary care provider ___ 2 weeks of 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain or temp > ___  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervicalgia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ for 
right neck pain and face numbness that felt like your prior 
carotid artery dissection. The carotid artery is a large artery 
in the neck supplying the brain. Forceful movements of the head 
and neck can cause the inner layer of the artery to separate 
from the outer layer and obstruct blood flow. This can cause 
neurological symptoms. Thankfully, imaging of your blood vessels 
did not show a dissection. Your clinical exam was also more 
consistent with cervicalgia and musculoskeletal pain in your 
right neck and not with an acute stroke or TIA.   

Please follow up with your primary care physician.
  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  

 Your ___ Neurology Team  

   
 
Followup Instructions:
___